US08957074B2
Following general amide formation method 1, 7-cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (60 mg, 0.123 mmol, 1.0 eq) was combined with BOC-D-Valine (26.7 mg, 0.123 mmol, 1.0 eq) which gave ((R)-1-{3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carbonyl}-2-methyl-propyl)-carbamic acid tert-butyl ester (82 mg) in 92% yield. HRMS m/z, (M+H)+: 688.3961.

reactant | 7-cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.123 mmol, 60 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC3CCC(C2)N3)N1C1CCCC1)C | C26H32N8O2
reactant | BOC-D-Valine | 0.123 mmol, 26.7 mg, 1.0 eq | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
product | ((R)-1-{3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carbonyl}-2-methyl-propyl)-carbamic acid tert-butyl ester | 82 mg, 92% yield | C(C)(C)(C)OC(N[C@H](C(C)C)C(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1)=O | C36H49N9O5
